US03971772
A solution of 3.0 g of 16α-(2-hydroxyethoxy)-11β,-17,21-trihydroxypregna-1,4-diene-3,20-dione, 21-acetate in 15 ml of pyridine is stirred with 0.75 ml of methane sulfonyl chloride at 0°C for 150 minutes. The mixture is poured into 1.5 liter of cold 1N hydrochloric acid, stirred for a short time, and filtered. The resulting solid is dissolved in chloroform, washed with water, dried, and evaporated in vacuo to give 4.0 g of crude 16α-(2-mesyloxyethoxy)-11β,17,21-trihydroxypregna-1,4-diene-3,20-dione, 21-acetate

reactant | 16α-(2-hydroxyethoxy)-11β,-17,21-trihydroxypregna-1,4-diene-3,20-dione | 3.0 g | OCCO[C@H]1[C@](C(CO)=O)([C@]2(C[C@@H]([C@@H]3[C@]4(C=CC(C=C4CC[C@H]3[C@@H]2C1)=O)C)O)C)O | C23H32O7
reactant | methane sulfonyl chloride | 0.75 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 16α-(2-mesyloxyethoxy)-11β,17,21-trihydroxypregna-1,4-diene-3,20-dione | 4.0 g | S(=O)(=O)(C)OCCO[C@H]1[C@](C(CO)=O)([C@]2(C[C@@H]([C@@H]3[C@]4(C=CC(C=C4CC[C@H]3[C@@H]2C1)=O)C)O)C)O | C24H34O9S
